US06518423B1
N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-N′-methyl-2-nitro-1,1-ethenediamine
0.7 g of 8-aminomethyl-10H-pyrazino[2,3-b][1,4]-benzothiazine and 1.35 g of N-methyl-1-methylthio-2-nitro-1-ethenamine were dissolved in a solvent mixture of tetrahydrofuran (50 ml) with water (3 ml) and stirred at 60° C. for 8 hours. After filtering off the insoluble matters, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with methanol/dichloromethane) to thereby give 0.14 g of the title compound as yellow crystals.

reactant | 8-aminomethyl-10H-pyrazino[2,3-b][1,4]-benzothiazine | 0.7 g | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
reactant | N-methyl-1-methylthio-2-nitro-1-ethenamine | 1.35 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-N′-methyl-2-nitro-1,1-ethenediamine | 0.14 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNC(=C[N+](=O)[O-])NC | C14H14N6O2S
